US08008298B2
4-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-benzenesulfonamide was prepared starting from 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one and 4-(aminosulphonyl)benzeneboronic acid following general procedures as described in these Examples. MP 277-278° C., M+H=359.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 4-(aminosulphonyl)benzeneboronic acid | NS(=O)(=O)C1=CC=C(C=C1)B(O)O | C6H8BNO4S
product | 4-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-benzenesulfonamide | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC=C(C=C2)S(=O)(=O)N)(C)C | C17H18N4O3S
